US08217043B2
d) [(1-Benzyl-4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carbonyl)-amino]-acetic acid
A mixture of 1-benzyl-4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid ethyl ester (78 mg, 0.249 mmol) and sodium glycinate (122 mg, 1.25 mmol) in 2-methoxyethanol (5 mL) was refluxed for 20 h; subsequently, the reaction was cooled and solvent was removed by rotovaping; the residue was dissolved in water and then acidified with 2 M HCl solution; the precipitates were collected via filtration, washed with water and vacuum dried at 50° C. to give the desired product (64 mg) as yellow solid. ESI (m/z): 342 (M+H)+.

reactant | 1-benzyl-4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid ethyl ester | 0.249 mmol, 78 mg | C(C)OC(=O)C1=C(C=2N(N(C1=O)CC1=CC=CC=C1)C=CC2)O | C17H16N2O4
reactant | sodium glycinate | 1.25 mmol, 122 mg | NCC(=O)[O-].[Na+]
solvent | 2-methoxyethanol | 5 mL | COCCO | C3H8O2
product | [(1-Benzyl-4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carbonyl)-amino]-acetic acid | 64 mg | C(C1=CC=CC=C1)N1N2C(C(=C(C1=O)C(=O)NCC(=O)O)O)=CC=C2 | C17H15N3O5
